US05461045
(2-Hydroxymethyl-1,2,3,4-tetrahydronaphthalen-5-yloxy)acetic acid ethyl ester
To a stirred suspension of 2-hydroxymethyl-5-hydroxy-1,2,3,4-tetrahydronaphthalene (2.72 g,) and potassium carbonate (3.17 g) in acetonitrile, ethyl bromoacetate (2 ml) was added at room temperature. After stirring overnight at room temperature, the reaction mixture was poured into water and extracted with ether. The extract was washed with saturated brine, dried over magnesium sulfate and evaporated. The residue was purified by silica gel chromatography (hexane:ethyl acetate=6:4) to give the title compound (4.10 g) having the following physical data.

reactant | 2-hydroxymethyl-5-hydroxy-1,2,3,4-tetrahydronaphthalene | 2.72 g | OCC1CC2=CC=CC(=C2CC1)O | C11H14O2
reactant | potassium carbonate | 3.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | ethyl bromoacetate | 2 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | C(C)#N | C2H3N
product | (2-Hydroxymethyl-1,2,3,4-tetrahydronaphthalen-5-yloxy)acetic acid ethyl ester | 4.10 g | C(C)OC(COC1=C2CCC(CC2=CC=C1)CO)=O | C15H20O4
